US04642308
The procedure is similar to that described in Example 1, but starting with 2-fluorobenzoic acid (11.2 g), N,N'-carbonyldiimidazole (12.9 g) and 2-amino-7-chloro-1,8-naphthyridine (8.9 g). The product produced by precipitation in water (13.6 g; m.p. 218° C.) is dissolved in boiling 1-propanol (450 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with 1-propanol (3×20 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-chloro-1,8-naphthyridin-2-yl)-2-fluorobenzamide (8.3 g) is produced, m.p. 222° C. EXAMPLE 14

reactant | 2-fluorobenzoic acid | 11.2 g | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | 2-amino-7-chloro-1,8-naphthyridine | 8.9 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 1-propanol | 450 cc | C(CC)O | C3H8O
solvent | water | 13.6 g | O | H2O
product | N-(7-chloro-1,8-naphthyridin-2-yl)-2-fluorobenzamide | 8.3 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=C(C=CC=C1)F)=O | C15H9ClFN3O
